US05461036
16-Hydroxyhexadecanoic acid (0.5 g) was suspended in methylene chloride (15 ml), and triethylamine (1.03 ml) was added to the suspension. To the mixture, while ice-cooled and stirred, was added dropwise acetyl chloride (0.39 ml). After 8 hours ice was added, and extracted with chloroform. The chloroform layer was washed with a saturated sodium hydrogen carbonate solution and then twice with water and dried with anhydrous sodium sulfate. The chloroform layer was concentrated and the residue thus obtained was subjected to chromatography on a silica gel column with an eluent system of chloroform-hexane (2:1) to give 16-acetoxyhexadecanoic acid (0.58 g).

reactant | 16-Hydroxyhexadecanoic acid | 0.5 g | OCCCCCCCCCCCCCCCC(=O)O | C16H32O3
reactant | triethylamine | 1.03 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.39 ml | C(C)(=O)Cl | C2H3ClO
reactant | chloroform hexane | C(Cl)(Cl)Cl.CCCCCC
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 16-acetoxyhexadecanoic acid | 0.58 g | C(C)(=O)OCCCCCCCCCCCCCCCC(=O)O | C18H34O4
